US07935702B2
7. 1-(5-Bromo-3-trifluoromethyl-pyridin-2-yl)-ethanone
To a mixture of 1-(5-amino-3-trifluoromethyl-pyridin-2-yl)-ethanone (408 mg, 2.0 mmol) in 75% sulfuric-acid (6 mL) at 0° C. add sodium nitrite (152 mg, 2.2 mmol) in water (1 mL). Stir the mixture for 30 minutes and add CuBr (343 mg, 2.4 mmol) and 48% HBr (2 mL). Heat the mixture at 60° C. for 30 minutes, cool to 0° C. and basify by dropwise addition of 10M sodium hydroxide. Extract the mixture with ethyl acetate (3×20 mL) and wash the combined organics with brine (50 mL). The organic extract is dried over MgSO4 and the solvent removed under reduced pressure to yield the title compound.

reactant | 1-(5-amino-3-trifluoromethyl-pyridin-2-yl)-ethanone | 2.0 mmol, 408 mg | NC=1C=C(C(=NC1)C(C)=O)C(F)(F)F | C8H7F3N2O
reactant | sodium nitrite | 2.2 mmol, 152 mg | N(=O)[O-].[Na+]
reactant | HBr | 2 mL | Br | BrH
reactant | sodium hydroxide | 10M | [OH-].[Na+]
solvent | sulfuric-acid | 6 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | 1 mL | O | H2O
product | 1-(5-Bromo-3-trifluoromethyl-pyridin-2-yl)-ethanone | BrC=1C=C(C(=NC1)C(C)=O)C(F)(F)F | C8H5BrF3NO
